Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall from 20 ft, +LOC
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male with PMH significant for HTN presenting s/p 
fall approximately ___ feet off of deck, + LOC. Patient does 
not remember falling. He does report the railing on his deck is 
broken. Unable to recall if lightheadedness or dizziness prior. 
+LOC. After falling he called out to his daughter who  found him 
on the ground. In the ED patient is not complaining of headache, 
nausea or vision changes; patient complains of back pain. 
 
Past Medical History:
PMH: B12 Deficiency, GERD, HLD, HTN, Non-Operative Type A 
Thoracic Aortic Aneurysm 4.4 cm

PSH: Right Knee Surgery, Prostatectomy
 
Social History:
___
Family History:
Non-Contibutory
 
Physical Exam:
GEN: NAD, well appearing
HEENT: NCAT, PERRLA, EOMI, mid-face stable, no nystagmus as 
noted previously, superficial abrasions per previous
NEURO: sensation and motor function grossly in tact throughout, 
CN II-XII in tact
CV: RRR, radial pulses 2+ b/l
RESP: breathing comfortably
GI: soft, non-TTP, no R/G/D
EXT: limited ROM RUE, otherwise well perfused
 
Pertinent Results:
___ 05:25AM BLOOD WBC-9.2 RBC-4.67 Hgb-15.3 Hct-45.9 MCV-98 
MCH-32.8* MCHC-33.3 RDW-13.2 RDWSD-47.9* Plt ___
___ 08:31PM BLOOD Neuts-60.0 ___ Monos-10.5 Eos-1.7 
Baso-0.6 Im ___ AbsNeut-4.81 AbsLymp-2.09 AbsMono-0.84* 
AbsEos-0.14 AbsBaso-0.05
___ 05:25AM BLOOD Plt ___
___ 05:25AM BLOOD Glucose-100 UreaN-14 Creat-1.2 Na-139 
K-4.1 Cl-98 HCO3-28 AnGap-17
___ 08:31PM BLOOD Glucose-131* UreaN-13 Creat-1.1 Na-137 
K-3.9 Cl-102 HCO3-23 AnGap-16
___ 08:31PM BLOOD ALT-21 AST-37 AlkPhos-79 TotBili-0.3
___ 05:25AM BLOOD Calcium-8.9 Phos-3.5 Mg-2.3
___ 08:31PM BLOOD Albumin-4.2
 
Brief Hospital Course:
Mr. ___ was admitted to the hospital following workup of his 
fall. Following initial evaluation in the ED, the patient 
received CT imaging which diagnosed a SAH in the right frontal 
lobe. Consulting neurosurgery service recommended a repeat CT 
image which demonstrated a stable SAH. They recommended against 
anti-epileptic prophylaxis and plan to follow up with the 
patient in the ___ as needed. In addition to 
his head injuries, he also suffered multiple fractures in his 
thoracic spine and a right sided rib fracture. These injuries 
were deemed stable and did not require additional treatment. 

He was complaining of right sided shoulder pain following a 
formal XRay which demonstrated no acute bony changes. While 
working with physical therapy, the patient was noted to be 
unsteady on his feet and was subsequently diagnosed with BPPV.

The patient remained stable throughout his hospital admission 
and received frequent neurological checks. He remained 
neurologically in tact and appropriate throughout. He was 
discharged and encouraged to follow up with his PCP and the 
___ Clinic per Neurosurgery. He has no need to follow up 
with ACS for his rib injury. He will receive ___ as an outpatient 
for his shoulder and vestibular ___ for his BPPV.

CT Head:
1.Small focus of subarachnoid hemorrhage along the medial right 
frontal lobe and 
cingulate sulcus.  No additional foci of hemorrhage identified. 

Repeat CT Head:
1. Stable subarachnoid hemorrhage from examination from 9 hours 
prior.

CT Thorax:
1. Single nondisplaced fracture of the right posterolateral 
fifth rib. 
2. Nondisplaced right-sided mid thoracic transverse process 
fractures involve 
the T7, T8, and T9 vertebral bodies, and possibly T5, as above. 
3. No intrathoracic or intra-abdominal or intrapelvic solid or 
hollow viscus 
organ injury identified. 
4. Mild fusiform dilation of the ascending thoracic aorta 
measuring up to 4.4 
cm in diameter.  No acute aortic abnormality. 
5. Small hiatus hernia. 
6. Rectosigmoid diverticulosis. 
7. Status post prostatectomy. 

 
Medications on Admission:
1.  ASA 81 mg PO daily
2.  Hydrochlorothiazide 12.5 mg PO DAILY  
3.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
4.  Metoprolol Succinate XL 50 mg PO DAILY  
5.  Omeprazole 20 mg PO DAILY  
6.  Simvastatin 20 mg PO QPM  

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 500 mg 1 tablet(s) by mouth every four (4) 
hours Disp #*30 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID:PRN stool softener 
RX *docusate sodium [Doc-Q-Lace] 100 mg 1 capsule(s) by mouth 
twice a day Disp #*20 Capsule Refills:*0 
3.  Hydrochlorothiazide 12.5 mg PO DAILY  
4.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
5.  Metoprolol Succinate XL 50 mg PO DAILY  
6.  Omeprazole 20 mg PO DAILY  
7.  Simvastatin 20 mg PO QPM  
8.  TraMADol 50 mg PO Q4H:PRN Pain - Moderate 
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*15 Tablet Refills:*0 
9.Outpatient Physical Therapy
For Shoulder Pain
10.Outpatient Physical Therapy
For Vestibular ___ patient diagnosed with Benign Paroxysmal 
Positional Vertigo

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Single non-displaced fracture of the right fifth rib.
Non-displaced right-sided mid thoracic transverse process 
fractures involve the T7, T8, and T9 vertebral bodies 
Sub-Arachnoid Hemorrhage
BPPV, Benign Paroxysmal Positional Vertigo

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Mr. ___, 

You were admitted to the hospital after you sustained a fall. 
You suffered a loss of consciousness, a small bleed within the 
brain called a sub-arachnoid hemorrhage, a right sided rib 
fracture and multiple small fractures in your spine. You did not 
suffer from any broken bones in your shoulder. None of these 
injuries required any surgical management. 

As a result of your bleeding, DO NOT RE-START YOUR ASPIRIN UNTIL 
___, then you may continue as usual.

After working with Physical Therapy and Occupational Therapy, 
you were found to have some imbalance while walking. This was 
determined to be secondary to Benign Positional Paroxysmal 
Vertigo (BPPV) for which you will receive the appropriate 
physical therapy for as an outpatient. 

You have recovered well during your hospitalization and you are 
ready to return home. Physical therapy will work with you for 
the aforementioned issues. 

Good Luck. 
 
Followup Instructions:
___